US06080740
2-Bromobenzyl triisopropylsilyl ether
Triisopropylsilyl chloride (8.0 ml, 46.0 mmol) was added dropwise to a solution of 2-bromobenzyl alcohol (7.0 g, 39.6 mmol) and imidazole (5.1 g, 75.0 mmol) in DMF (25 ml) and the resulting solution stirred at 20° C for 18 hours. The reaction mixture was diluted with water (400 ml) and extracted with ethyl acetate (3×75 ml). The combined organic extracts was washed with saturated brine (1×75 ml), dried (MgSO4) and concentrated to yield the title compound as a clear oil (10.2 g, 78%). 1H NMR (250 MHz, CDCl3) δ 1.05-1.24 (21 H, m), 4.82 (2 H, s), 7.11 (1 H, dt, J=7.5, 1.2), 7.34 (1 H, t, J=7.6), 7.48 (1 H, dd, J=7.9, 1.1), 7.63 (1 H, d, J=6.7).

reactant | Triisopropylsilyl chloride | 46.0 mmol, 8.0 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | 2-bromobenzyl alcohol | 39.6 mmol, 7.0 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | imidazole | 75.0 mmol, 5.1 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 400 ml | O | H2O
product | 2-Bromobenzyl triisopropylsilyl ether | 10.2 g, 78% | C(C)(C)[Si](C(C)C)(C(C)C)OCC1=C(C=CC=C1)Br | C16H27BrOSi
